US07342118B2
2-[2-(4-Phenyl-thiazol-2-yl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide was coupled with (4-phenyl-thiazol-2-yl)-acetic acid to afford the title compound: C13 NMR (100 MHz, CDCl3) 13.9, 19.0, 24.2, 25.6, 26.6, 26.7, 35.2, 40.3, 53.6, 55.9, 59.1, 67.2, 105.3, 113.2, 126.5, 128.4, 129.0, 131.4, 134.2, 137.4, 155.5, 163.4, 167.3, 168.6; MS m/z 509.4 (M+1).

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O
reactant | (4-phenyl-thiazol-2-yl)-acetic acid | C1(=CC=CC=C1)C=1N=C(SC1)CC(=O)O | C11H9NO2S
product | 2-[2-(4-Phenyl-thiazol-2-yl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)NC(CC=1SC=C(N1)C1=CC=CC=C1)=O)=O | C27H36N6O2S
